2159-02-16 08:27:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2159-2-15**] 11:02 AM: stable MR [**First Name (Titles) **] [**Last Name (Titles) **]
   3.5 L of IVF. Developed acute pulm edema thereafter. Rx with lasix and
   morphine with resolution.
   Weaned off levofed, but later restarted for a few mins.
   SvO2 88
   Peak flow 170: nebs
   CT torso: bilateral pleural effusions, no source of infection, large
   bilateral renal cysts
   To be seen by SW today.
   No further information from PCP nor oncologist
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-2-15**] 01:13 AM
   Piperacillin/Tazobactam (Zosyn) - [**2159-2-16**] 06:08 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2159-2-15**] 10:59 PM
   Furosemide (Lasix) - [**2159-2-15**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-2-16**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 106 (72 - 108) bpm
   BP: 122/64(77) {80/39(52) - 127/91(99)} mmHg
   RR: 24 (15 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 15 (7 - 25)mmHg
   Mixed Venous O2% Sat: 64 - 88
   Total In:
                                                                 11,380 mL
                                                                    184 mL
   PO:
                                                                  1,550 mL
   TF:
   IVF:
                                                                  4,830 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  1,695 mL
                                                                  1,140 mL
   Urine:
                                                                  1,695 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,685 mL
                                                                   -956 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Wheezes : ,
   Diminished: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   206 K/uL
   174 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.7 mEq/L
   31 mg/dL
   109 mEq/L
   139 mEq/L
   31.2 %
   17.3 K/uL
        [image002.jpg]
                             [**2159-2-15**]  01:51 AM
                             [**2159-2-16**]  03:19 AM
   WBC
   21.3
   17.3
   Hct
   32.6
   31.2
   Plt
   255
   206
   Cr
   1.8
   1.3
   TropT
   0.22
   Glucose
   163
   174
   Other labs: PT / PTT / INR:21.3/27.6/2.0, CK / CKMB /
   Troponin-T:75//0.22, Lactic Acid:1.4 mmol/L, Ca++:6.7 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   SvO2 88
   CT chest: bilat pleural effusions
   Ct [**Last Name (un) **]: huge renal cysts with fluid
   All cxs: ngtd
   CXR: pulm edema
   EKG: no new changes
   Assessment and Plan
 DYSPNEA (SHORTNESS OF BREATH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   84 yo M with history of MM, DVT, admitted in shock
    shock: resolved. [**Name (NI) 4353**] unclear. On broad abx (vanco, zosyn,
   azithro) and stress dose steroids. ? Look at spine?  Wean steroids 24
   hrs post pressors.
   Cards: TTE similar to [**2156**].
   Dyspnea/orthopnea: likely related to pleural effusions and MR. [**First Name (Titles) **]
[**Last Name (Titles) 4354**]sis 1-2 L. Check pre and post neb peak flow.
   ARF
 resolved. Repeat UA and cx since color changed last night. check
   final read on abd CT, since he has huge renal cysts on Ct [**Last Name (un) **]. Urology
   input.
   Multiple Myeloma
 in remission
   History of DVT- keep therapeutically anticoagulated for now
   Rest per resident's note.
   ICU Care
   Nutrition: taking po
   Glycemic Control: Regular insulin sliding scale
   Lines / Intubation:
   Multi Lumen - [**2159-2-15**] 01:17 AM
   18 Gauge - [**2159-2-15**] 01:18 AM
   Comments:
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   Comments:
   Communication: Family meeting held  Comments: with son and daughter on
   [**2159-2-15**]. Spoke with PCP and oncologist
   [**Name9 (PRE) 156**] status: DNR / DNI
   Disposition: ICU
   Total time spent: 35 mins
   Patient is critically ill

2159-02-17 09:13:00 Physician Attending Progress Note
Chief Complaint: Hypotension, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 y/o man with PMH of MM, DVT on coumadin admitted with hypotension
   and ARF.  Started on vanz/zosyn/azithro. Please see previous notes for
   details.
   24 Hour Events:
 EKG - At [**2159-2-16**] 05:10 PM
 NON-INVASIVE VENTILATION - START [**2159-2-16**] 05:25 PM
 NON-INVASIVE VENTILATION - STOP [**2159-2-16**] 07:27 PM
 NON-INVASIVE VENTILATION - START [**2159-2-16**] 09:09 PM
 NON-INVASIVE VENTILATION - STOP [**2159-2-16**] 11:11 PM
 NON-INVASIVE VENTILATION - START [**2159-2-17**] 01:00 AM
 NON-INVASIVE VENTILATION - STOP [**2159-2-17**] 03:02 AM
 NON-INVASIVE VENTILATION - START [**2159-2-17**] 05:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-2-16**] 11:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2159-2-17**] 02:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2159-2-16**] 05:00 PM
   Furosemide (Lasix) - [**2159-2-16**] 05:20 PM
   Metoprolol - [**2159-2-16**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Currently denies SOB, Chest pain.  Mild SOB on moving from bed to
   chair.
   Flowsheet Data as of  [**2159-2-17**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 81 (67 - 139) bpm
   BP: 114/64(76) {94/45(57) - 155/84(106)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (0 - 27)mmHg
   Total In:
                                                                    819 mL
                                                                    274 mL
   PO:
   TF:
   IVF:
                                                                    819 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  2,505 mL
                                                                    457 mL
   Urine:
                                                                  2,505 mL
                                                                    457 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,687 mL
                                                                   -183 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,056 (711 - 1,056) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.36/33/67/26/-5
   Ve: 11.6 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   diffuse)
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): x 3,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   198 K/uL
   129 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.7 mEq/L
   30 mg/dL
   107 mEq/L
   143 mEq/L
   31.7 %
   16.1 K/uL
        [image002.jpg]
                             [**2159-2-15**]  01:51 AM
                             [**2159-2-16**]  03:19 AM
                             [**2159-2-16**]  05:27 PM
                             [**2159-2-16**]  05:33 PM
                             [**2159-2-17**]  03:56 AM
   WBC
   21.3
   17.3
   16.0
   16.1
   Hct
   32.6
   31.2
   34.4
   31.7
   Plt
   255
   206
   249
   198
   Cr
   1.8
   1.3
   1.3
   1.4
   TropT
   0.22
   0.13
   0.11
   TCO2
   19
   Glucose
   163
   174
   149
   129
   Other labs: PT / PTT / INR:21.3/27.6/2.0, CK / CKMB /
   Troponin-T:65//0.11, Lactic Acid:2.2 mmol/L, Ca++:7.1 mg/dL, Mg++:1.9
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   84 year old man with hypotension and ARF. Plan as per resident note.
   Briefly, some degree of fluid overload but CXR does seem consistent
   with LLL consolidation vs atelectasis.
   Decompensation yesterday was reportedly in association with left side
   down, so suspect PNA is primary pathology. Continue current
   antibitiotics, on stress dose steroids which we can taper down to his
   home dose of dex. Cr approaching baseline. With history of DVT will
   check LENI's. He is already systemicaly anticoagulated.   Continue
   diuresisFurther plan as per resident note.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2159-2-15**] 01:17 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes

2159-02-18 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory distress
   24 Hour Events:
   - Lasix bolus for goal -1L
   - Changed stress-dose steroids to prednisone PO
   - Appeared in respiratory distress overnight and briefly on BiPAP
   without improvement -> patient asymptomatic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-2-17**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2159-2-18**] 02:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-2-17**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-2-18**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 75 (74 - 116) bpm
   BP: 143/101(113) {104/46(61) - 143/101(113)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (4 - 26)mmHg
   Total In:
                                                                  1,680 mL
                                                                    165 mL
   PO:
                                                                    790 mL
   TF:
   IVF:
                                                                    890 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  2,567 mL
                                                                    320 mL
   Urine:
                                                                  2,567 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -887 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   SpO2: 99%
   ABG: ///27/
   Ve: 7.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   11.1 g/dL
   113 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.6 mEq/L
   33 mg/dL
   107 mEq/L
   141 mEq/L
   32.3 %
   14.0 K/uL
        [image002.jpg]
                             [**2159-2-15**]  01:51 AM
                             [**2159-2-16**]  03:19 AM
                             [**2159-2-16**]  05:27 PM
                             [**2159-2-16**]  05:33 PM
                             [**2159-2-17**]  03:56 AM
                             [**2159-2-18**]  03:49 AM
   WBC
   21.3
   17.3
   16.0
   16.1
   14.0
   Hct
   32.6
   31.2
   34.4
   31.7
   32.3
   Plt
   255
   206
   249
   198
   237
   Cr
   1.8
   1.3
   1.3
   1.4
   1.3
   TropT
   0.22
   0.13
   0.11
   TCO2
   19
   Glucose
   163
   174
   149
   129
   113
   Other labs: PT / PTT / INR:26.6/29.1/2.6, CK / CKMB /
   Troponin-T:65//0.11, Lactic Acid:2.2 mmol/L, Ca++:7.5 mg/dL, Mg++:2.0
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   84 yo M with history of MM, DVT, admitted with hypotension and ARF.
   # Flash pulmonary edema:  Patient had an episode of hypoxia last night
   with dyspnea/tachypnea which improved with Morphine 2mg IV x 1 and
   Lasix 40mg IV x 1.  CXR done which was consistent with bilateral
   pulmonary infiltrates and congestion suggestive for pulmonary edema
   suggestive of flash pulmonary edema.  Cardiac enzymes have been
   negative.
   - Lasix 40mg IV x 1
   - Monitor Is and Os for goal -1 to 1.5L neg today
   - LENIS for eval of DVT given history
   #. Sepsis
 Likely sepsis given leukocytosis and hypotension.  Unclear
   source at this time.  Patient on chronic steroids so adrenal
   insufficiency may have been a component.  Stress dose steroids will be
   tapered off at this time.
   - taper stress dose steroids
   - continue broad spectrum abx with vanco, zosyn, azithro
   - hold home anti-hypertensives until hemodynamically stable
   - r/o flu - negative
   # hematuria:  patient with hematuria along with bilateral renal cysts
   on CT scan.  Urology consulted and have recommended cytology.  Will f/u
   as outpatient
   -- send urine cytology
   #. ARF - likely prerenal azotemia. Now resolved
   #. Multiple Myeloma - multiple myeloma for which he takes dexamethasone
   weekly on a regular basis.  Per primary oncologist, MM is in remission
   #. History of DVT- continue coumadin
will hold this pm for possible
   procedure
   -- f/u LENIS as above
   #. Depression - continue citalopram
   - SW consult
   #. Benign prostatic hypertrophy - continue finasteride at nighttime
   ICU Care
   Nutrition:
   Comments: Low salt diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2159-2-15**] 01:17 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-02-18 09:49:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 man with PMH of multiple myeloma, DVT a/w with sepsis. Please see
   previous notes for details.
   24 Hour Events:
   diuresed
   Started wean of stress dose steroids
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-2-18**] 02:07 AM
   Vancomycin - [**2159-2-18**] 08:00 AM
   Azithromycin - [**2159-2-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-2-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-2-18**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 98 (74 - 116) bpm
   BP: 126/60(74) {105/43(63) - 143/101(113)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (4 - 26)mmHg
   Total In:
                                                                  1,680 mL
                                                                    595 mL
   PO:
                                                                    790 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    890 mL
                                                                    395 mL
   Blood products:
   Total out:
                                                                  2,567 mL
                                                                    440 mL
   Urine:
                                                                  2,567 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -887 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   SpO2: 97%
   ABG: ///27/
   Ve: 7.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   237 K/uL
   113 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.6 mEq/L
   33 mg/dL
   107 mEq/L
   141 mEq/L
   32.3 %
   14.0 K/uL
        [image002.jpg]
                             [**2159-2-15**]  01:51 AM
                             [**2159-2-16**]  03:19 AM
                             [**2159-2-16**]  05:27 PM
                             [**2159-2-16**]  05:33 PM
                             [**2159-2-17**]  03:56 AM
                             [**2159-2-18**]  03:49 AM
   WBC
   21.3
   17.3
   16.0
   16.1
   14.0
   Hct
   32.6
   31.2
   34.4
   31.7
   32.3
   Plt
   255
   206
   249
   198
   237
   Cr
   1.8
   1.3
   1.3
   1.4
   1.3
   TropT
   0.22
   0.13
   0.11
   TCO2
   19
   Glucose
   163
   174
   149
   129
   113
   Other labs: PT / PTT / INR:26.6/29.1/2.6, CK / CKMB /
   Troponin-T:65//0.11, Lactic Acid:2.2 mmol/L, Ca++:7.5 mg/dL, Mg++:2.0
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   84 year old man with PMH MM, DVT presents with sepsis (? [**2-19**] LLL
   pneumonia) now resolved. Continue abx, wean to baseline steroid dose.
   Would cont. gentle diuresis. Further plans as per residentnote.  Okay
   to transfer to floor.
   ICU Care
   Nutrition:
   Comments: Oral diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2159-2-15**] 01:17 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes